US06063734
6.2 g of sodium cyanide was weighed, 50 ml of dimethylsulfoxide was added thereto, and a dimethylsulfoxide solution of 16.9 g of 2-tert-butyl-4-chloromethyloxazole was dropwise added thereto, and heated on an oil bath at 65° C. for 1 hour with stirring. After the resulting product was cooled to room temperature, 150 ml of a dilute aqueous solution of sodium hydroxide was added thereto, and extracted with toluene. The organic layer was fully washed with water, and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to obtain 14.8 g of 2-tert-butyl-4-cyanomethyloxazole.

reactant | sodium cyanide | 6.2 g | [C-]#N.[Na+]
reactant | 2-tert-butyl-4-chloromethyloxazole | 16.9 g | C(C)(C)(C)C=1OC=C(N1)CCl | C8H12ClNO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-tert-butyl-4-cyanomethyloxazole | 14.8 g | C(C)(C)(C)C=1OC=C(N1)CC#N | C9H12N2O
